US08227468B2
(3R,4S)-4-Amino-6-bromo-chroman-3-ol
To a solution of racemic-trans-3,6-dibromochroman-4-ol (5.10 kg, 16.6 mol) in tetrahydrofuran (5.0 L) and ethanol (5.0 L) at room temperature, add ammonium hydroxide (13.0 L) in one portion and slowly heat to 43° C. over 2 hr. and continue heating for 14 hr. Concentrate the mixture under reduced pressure to remove about 9 L of solvent. Add methyl tert-butyl ether (10 L) to the residual slurry and stir the mixture for 3 hr. at 25° C. Collect the precipitate by filtration, wash with water (2×2 L) and then methyl tert-butyl ether (3×1.5 L) to obtain a wet solid. Dry in air at room temperature overnight to obtain the title compound as a pale yellow solid (2.78 kg, 69%). LC-ES/MS m/z (79Br) 244 [M+H]+. Separate the enantiomers by purifying in 100 g portions on a 11×33 cm CHIRALPAK® AD, 20 μm column eluting with 100% methanol with 0.2% dimethylethylamine (steady state recycle purification) to obtain the 3S,4R enantiomer (isomer 1, 1362.5 g, 97.4% ee) and the title compound (isomer 2, 1323.7 g, 97.5% ee). Conditions for analytical chiral HPLC analysis: 4.6×150 mm CHIRALPAK® AD-H 5 μm column, 100% methanol with 0.2% dimethylethylamine, flow rate 0.5 mL/min., isomer 1 TR=4.69 min, isomer 2 TR=6.27 min.

reactant | racemic-trans-3,6-dibromochroman-4-ol | 16.6 mol, 5.10 kg | Br[C@@H]1COC2=CC=C(C=C2[C@H]1O)Br | C9H8Br2O2
reactant | ammonium hydroxide | 13.0 L | [OH-].[NH4+]
solvent | tetrahydrofuran | 5.0 L | O1CCCC1 | C4H8O
solvent | ethanol | 5.0 L | C(C)O | C2H6O
product | (3R,4S)-4-Amino-6-bromo-chroman-3-ol | 2.78 kg, 69% | N[C@@H]1[C@H](COC2=CC=C(C=C12)Br)O | C9H10BrNO2
